US09102614B2
Preparation of ethyl 2-(6-chloro-7-fluoro-1-hydroxy-3-methylnaphthalen-2-yl)-2-hydroxyacetate:
To a mixture of 6-chloro-7-fluoro-3-methylnaphthalen-1-ol (2.24 g, 13.78 mmol) in anhydrous dichloromethane (100 mL) at −40° C. was added a 1 M titanium(IV) chloride solution in dichloromethane (13.78 mL, 13.78 mmol) and stirred for 45 min. Ethyl glyoxylate (1.69 g, 16.54 mmol) dissolved in dichloromethane (5 mL) was added over 15 minutes and stirred for 1 hour at −40° C. The reaction was quenched by the addition of Rochelle's salt solution and stirred at room temperature for 2.5 hours. The resulting mixture was washed with water and aqueous layer back-extracted with dichloromethane (2×). The combined organic layer was dried (MgSO4), filtered, concentrated and purified by flash column chromatography (silica gel, 5 to 30% ethyl acetate/hexanes) to give an off-white solid (2.53 g). 1H-NMR: 400 MHz, (CDCl3) δ: 8.48 (s, 1H), 7.89 (d, J=10.5 Hz, 1H), 7.70 (d, J=7.2 Hz, 1H), 7.11 (s, 1H), 5.67 (s, 1H), 4.30 (dq, J=10.8, 7.1 Hz, 1H), 4.15 (dq, J=10.8, 7.1 Hz, 1H), 3.61 (s, 1H), 2.52 (s, 3H), 1.20 (t, J=7.1 Hz, 3H). LCMS-ESI+ (m/z): [M+H]+ calcd for C15H13ClFO4: 311.7; found: 311.0.

reactant | 6-chloro-7-fluoro-3-methylnaphthalen-1-ol | 13.78 mmol, 2.24 g | ClC=1C=C2C=C(C=C(C2=CC1F)O)C | C11H8ClFO
reactant | Ethyl glyoxylate | 16.54 mmol, 1.69 g | C(C=O)(=O)OCC | C4H6O3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | titanium(IV) chloride | 1 M | [Ti](Cl)(Cl)(Cl)Cl
solvent | dichloromethane | 13.78 mmol, 13.78 mL | ClCCl | CH2Cl2
product | ethyl 2-(6-chloro-7-fluoro-1-hydroxy-3-methylnaphthalen-2-yl)-2-hydroxyacetate | 2.53 g | ClC=1C=C2C=C(C(=C(C2=CC1F)O)C(C(=O)OCC)O)C | C15H14ClFO4
